US06211199B1
55.3 Synthesis of 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 1.6 using 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine and (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine to give the title compound.

reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C22H25N5O5S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
product | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C37H45N9O3
